US05705531
To a solution of 3.90 g of (1R,3aS,5S,7aR)-1-[(E)-2-methoxycarbonyl-1-ethenyl]-5-(4-tert-butyl-dimethylsilyloxyphenyl)-7a-methylperhydroinden-3a-ol in 50 ml of anhydrous THF, cooled at -78° C., 45 ml of 1N DIBAH in THF were added and the mixture was stirred at -78° C. for 1 hr, then at room temperature for 8 hrs. The reaction mixture was cooled to 0° C. and 100 ml of 1N H2SO4 were cautiously added and stirring was continued at room temperature for 1 hr. The mixture was then extracted with ethyl acetate. The organic layer was dried over sodium sulfate and evaporated to dryness under reduced pressure. The residue was purified by flash chromatography (SiO2) with n-hexane/ethyl acetate 7:3 as the eluant to give 2.95 g of (1R,3aS,5S,7aR)-1-[(E)-3-hydroxy-1-propenyl]-5-(4-tert-butyldimethylsilyloxyphenyl)-7a-methylperhydroinden-3a-ol as a white solid.

reactant | (1R,3aS,5S,7aR)-1-[(E)-2-methoxycarbonyl-1-ethenyl]-5-(4-tert-butyl-dimethylsilyloxyphenyl)-7a-methylperhydroinden-3a-ol | 3.90 g | COC(=O)/C=C/[C@H]1CC[C@@]2(C[C@H](CC[C@]12C)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)O | C26H40O4Si
reactant | DIBAH | 1N, 45 ml | CC(C)C[AlH]CC(C)C
reactant | H2SO4 | 1N, 100 ml | OS(=O)(=O)O | H2O4S
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (1R,3aS,5S,7aR)-1-[(E)-3-hydroxy-1-propenyl]-5-(4-tert-butyldimethylsilyloxyphenyl)-7a-methylperhydroinden-3a-ol | 2.95 g | OC/C=C/[C@H]1CC[C@@]2(C[C@H](CC[C@]12C)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)O | C25H40O3Si
